US09403801B2
Step 1) tert-butyl 5-((5-chloro-2-((1-methyl-1H-imidazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a suspension of tert-butyl 5-[(2,5-dichloropyrimidin-4-yl)amino]-hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (373.0 mg, 1.00 mmol) and 1-methylimidazol-4-amine (341.8 mg, 3.52 mmol) in dioxane (10 mL) were added Pd(OAc)2 (52.0 mg, 0.23 mmol), BINAP (125.0 mg, 0.19 mmol) and Cs2CO3 (647.2 mg, 1.99 mmol). The reaction mixture was stirred at 150° C. under microwave for 2 h and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/50) to give the title compound as a pale yellow solid (0.21 g, 48%).

reactant | tert-butyl 5-[(2,5-dichloropyrimidin-4-yl)amino]-hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 1.00 mmol, 373.0 mg | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)Cl | C16H22Cl2N4O2
reactant | 1-methylimidazol-4-amine | 3.52 mmol, 341.8 mg | CN1C=NC(=C1)N | C4H7N3
reactant | BINAP | 0.19 mmol, 125.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.99 mmol, 647.2 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.23 mmol, 52.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl 5-((5-chloro-2-((1-methyl-1H-imidazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 0.21 g, 48% | ClC=1C(=NC(=NC1)NC=1N=CN(C1)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C20H28ClN7O2
